US08309580B2
3-{[4-({2-cyclohexyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoyl](methyl)amino}propanoic acid
An operation similar to that in Example 1 (4) was performed using 4-({2-cyclohexyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoic acid (133 mg) as well as ethyl 3-(methylamino)propanoate (47 mg) to give the title compound (151 mg, 95%) as an amorphous compound.

reactant | 4-({2-cyclohexyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoic acid | 133 mg | C1(CCCCC1)C=1OC(=CC1COC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)C(F)(F)F | C25H23F3O4
reactant | ethyl 3-(methylamino)propanoate | 47 mg | CNCCC(=O)OCC | C6H13NO2
product | 3-{[4-({2-cyclohexyl-5-[4-(trifluoromethyl)phenyl]-3-furyl}methoxy)benzoyl](methyl)amino}propanoic acid | 151 mg, 95% | C1(CCCCC1)C=1OC(=CC1COC1=CC=C(C(=O)N(CCC(=O)O)C)C=C1)C1=CC=C(C=C1)C(F)(F)F | C29H30F3NO5
